US09029357B2
A mixture of (1H-benzimidazol-2-yl)phenylmethanol (611 mg) and 1-methyl-3-pyrrolidinol (263 mg) in methanesulfonic acid (1.3 mL) is heated for 4 hours in a sealed tube at a temperature close to 140° C. The mixture is cooled back to room temperature, poured into water which is then made alkaline with concentrated sodium hydroxide solution. The aqueous phase is extracted with ethyl acetate. Pooled extracts are dried over magnesium sulfate, concentrated under reduced pressure. The residue is purified by column chromatography over silica gel (gradient dichloromethane/methanol from 100/0 to 90/10) to give 2-[(1-methylpyrrolidin-3-yloxy)phenyl-methyl]-1H-benzimidazole melting at 53° C.

reactant | (1H-benzimidazol-2-yl)phenylmethanol | 611 mg | N1C(=NC2=C1C=CC=C2)C(O)C2=CC=CC=C2 | C14H12N2O
reactant | 1-methyl-3-pyrrolidinol | 263 mg | CN1CC(CC1)O | C5H11NO
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanesulfonic acid | 1.3 mL | CS(=O)(=O)O | CH4O3S
product | 2-[(1-methylpyrrolidin-3-yloxy)phenyl-methyl]-1H-benzimidazole | CN1CC(CC1)OC(C1=NC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C19H21N3O
